US05731299
A suspension of 2.38 g (0.01 mole) of diethoxyphosphinylmethanesulfonate lithium salt (Carretero, et al.; Tetrahedron, 43, 5125 (1987)) in 50 ml of anhydrous tetrahydrofuran is stirred in a -40° bath under a dry nitrogen atmosphere. To this is added n-butyl lithium (4.4 ml of 2.5M solution in hexanes; 0.011 mole) via syringe over 5 minutes. The reaction mixture is allowed to warm to -15° and is stirred at this temperature for about one hour. To it is then added rapidly a solution of 0.53 g (0.01 mole) of acrylonitrile in 3 ml of anhydrous THF. The reaction mixture is stirred for 1 hour at -15° , and is then allowed to warm to room temperature over several hours as the bath warms up. It is stirred at ambient temperature for several hours, and then is quenched by addition of 50 ml of water containing 0.6 g (0.01 mole) of acetic acid. The reaction mixture is concentrated under vacuum on a rotary evaporator to get rid of the THF, and the aqueous layer is extracted with ether to remove some impurities. The water layer is evaporated to dryness under vacuum, and the resulting residue is purified by flash chromatography on silica gel using chloroform/methanol as eluant, to afford 3-cyano-1-diethoxyphosphinylpropanesulfonic acid lithium salt.

reactant | diethoxyphosphinylmethanesulfonate lithium salt | 0.01 mole, 2.38 g | [Li+].C(C)OP(=O)(OCC)CS(=O)(=O)[O-]
reactant | n-butyl lithium | 0.011 mole, 2.5M, 4.4 ml | C(CCC)[Li]
reactant | acrylonitrile | 0.01 mole, 0.53 g | C(C=C)#N | C3H3N
reactant | water | 0.01 mole, 50 ml, 0.6 g | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-cyano-1-diethoxyphosphinylpropanesulfonic acid lithium salt | [Li+].C(#N)CCC(S(=O)(=O)[O-])P(=O)(OCC)OCC | InChI=1S/C8H16NO6PS.Li/c1-3-14-16(10,15-4-2)8(6-5-7-9)17(11,12)13;/h8H,3-6H2,1-2H3,(H,11,12,13);/q;+1/p-1
